US04736031
A mixture of 5.0 g of methyl 3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate, 7.1 g of 1-bromo-3-chloropropane, 1.5 g of potassium iodide, 6.3 g of potassium carbonate and 60 ml of acetonitrile is heated under refluxing for 4 hours. After cooling, the inorganic substances are filtered off and the filtrate is concentrated under reduced pressure. The residue is treated with water and then extracted with ethyl acetate. The organic layer is washed with water, dried, and evaporated under reduced pressure. The residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=8:1→2:1), to give 5.5 g of methyl 2-(3-chloropropyl)-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate as a colorless oil. Recrystallization from ethanol gives 4.4 g of colorless prisms: m.p. 75°-77° C.

reactant | methyl 3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate | 5.0 g | O=C1C(OC2=C(CC1)C=CC=C2)C(=O)OC | C12H12O4
reactant | 1-bromo-3-chloropropane | 7.1 g | BrCCCCl | C3H6BrCl
reactant | potassium iodide | 1.5 g | [I-].[K+]
reactant | potassium carbonate | 6.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | methyl 2-(3-chloropropyl)-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate | 5.5 g | ClCCCC1(OC2=C(CCC1=O)C=CC=C2)C(=O)OC | C15H17ClO4
